* D:\Projects\Nixie Tube Clock\Simulation\NixieHVPS.asc
XU2 N001 N004 N002 0 0 FLEX_7491961_1_25
D1 N002 N003 RFN10NS3S
C1 N003 0 0.22µF
C2 N008 0 0.01µF
C3 N001 0 100µF
C4 N007 N010 22nF
R1 N010 0 4.7k
R2 N009 0 27k
R3 N008 0 0.05
R4 N006 0 3.32k
R5 N003 N006 487k
R6 N003 0 10k
M1 N004 N005 N008 N008 AON6242
V1 N001 0 5
XU1 0 N007 N005 N009 N006 N008 0 N001 LM3478_TRANS SS=0
.model D D
.lib C:\Users\Chris\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Chris\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 20m 1u 100ns uic
.Param AG=25013 PR=1 PL=1 SR=5 SL=5
.includes LM3478_TRANS.lib
.lib C:\Users\Chris\Downloads\snvmaw9b\LM3478_PSPICE_TRANS\LM3478_TRANS.lib
.lib FLEX_7491961_1_25.sub
.backanno
.end
