**************************************************
* Manufacturer:       Wurth Elektronik 
* Kinds:     SMDHighCurrent Inductor
* Matchcode:          WE-CHSA
* Library Type:       spice
* Version:        rev19b
* Created/modified by:    Fredo       
* Date and Time   :       6/20/2019
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt 1011_7843330033_0.33u 1 2
Rp 1 2 224.2840862509
Cp 1 2 1.44388379703333p
Rs 1 N3 0.0014
L1 N3 2 0.3990806239044u
.ends 1011_7843330033_0.33u
*******
.subckt 1011_7843330056_0.56u 1 2
Rp 1 2 396.3269452822
Cp 1 2 1.92854490631034p
Rs 1 N3 0.0017
L1 N3 2 0.7013409310824u
.ends 1011_7843330056_0.56u
*******
.subckt 1011_7843330100_1u 1 2
Rp 1 2 628.688756308067
Cp 1 2 2.37582295958621p
Rs 1 N3 0.0024
L1 N3 2 1.077887365859u
.ends 1011_7843330100_1u
*******
.subckt 1011_7843330180_1.8u 1 2
Rp 1 2 1287.41666750586
Cp 1 2 2.36299654817241p
Rs 1 N3 0.0039
L1 N3 2 1.95961316052655u
.ends 1011_7843330180_1.8u
*******
.subckt 1011_7843330330_3.3u 1 2
Rp 1 2 2142.73384398833
Cp 1 2 2.77176568168966p
Rs 1 N3 0.0054
L1 N3 2 3.00111264042033u
.ends 1011_7843330330_3.3u
*******
.subckt 1011_7843330390_3.9u 1 2
Rp 1 2 2709.94152160467
Cp 1 2 2.4846733735p
Rs 1 N3 0.00725
L1 N3 2 3.77831298770862u
.ends 1011_7843330390_3.9u
*******
.subckt 1011_7843330560_5.6u 1 2
Rp 1 2 4042.59546885333
Cp 1 2 2.72593057613333p
Rs 1 N3 0.01085
L1 N3 2 5.36939294484633u
.ends 1011_7843330560_5.6u
*******
.subckt 1011_7843330820_8.2u 1 2
Rp 1 2 5878.17153255345
Cp 1 2 2.4870821913p
Rs 1 N3 0.0159
L1 N3 2 7.66255212353233u
.ends 1011_7843330820_8.2u
*******
.subckt 1212_7843320039_0.39u 1 2
Rp 1 2 221.734408046367
Cp 1 2 1.650409383p
Rs 1 N3 0.00135
L1 N3 2 0.4353567283649u
.ends 1212_7843320039_0.39u
*******
.subckt 1212_7843320068_0.68u 1 2
Rp 1 2 381.3397555027
Cp 1 2 2.22727392606667p
Rs 1 N3 0.0017
L1 N3 2 0.749127714861655u
.ends 1212_7843320068_0.68u
*******
.subckt 1212_7843320100_1u 1 2
Rp 1 2 599.5930445023
Cp 1 2 2.39205508216667p
Rs 1 N3 0.002
L1 N3 2 1.13880644000033u
.ends 1212_7843320100_1u
*******
.subckt 1212_7843320150_1.5u 1 2
Rp 1 2 853.40702436469
Cp 1 2 2.91228430955172p
Rs 1 N3 0.0027
L1 N3 2 1.55489890604933u
.ends 1212_7843320150_1.5u
*******
.subckt 1212_7843320270_2.7u 1 2
Rp 1 2 1562.147916927
Cp 1 2 2.94406642748276p
Rs 1 N3 0.0039
L1 N3 2 2.67098688518207u
.ends 1212_7843320270_2.7u
*******
.subckt 1212_7843320330_3.3u 1 2
Rp 1 2 2107.15480377733
Cp 1 2 2.67016503226667p
Rs 1 N3 0.0053
L1 N3 2 3.563910274852u
.ends 1212_7843320330_3.3u
*******
.subckt 1212_7843320470_4.7u 1 2
Rp 1 2 3076.71068863033
Cp 1 2 3.085920786p
Rs 1 N3 0.00685
L1 N3 2 5.01797655175967u
.ends 1212_7843320470_4.7u
*******
.subckt 1212_7843320680_6.8u 1 2
Rp 1 2 4402.855918955
Cp 1 2 2.93257342044828p
Rs 1 N3 0.0099
L1 N3 2 6.76074116690517u
.ends 1212_7843320680_6.8u
*******
.subckt 1212_7843320820_8.2u 1 2
Rp 1 2 5213.94869474033
Cp 1 2 2.90305156366567p
Rs 1 N3 0.01245
L1 N3 2 8.10000155975167u
.ends 1212_7843320820_8.2u
*******
.subckt 1212_7843321200_12u 1 2
Rp 1 2 7227.97286274857
Cp 1 2 2.83341268310714p
Rs 1 N3 0.0179
L1 N3 2 10.7689388817107u
.ends 1212_7843321200_12u
*******
.subckt 8090_7843340033_0.33u 1 2
Rp 1 2 352.867149190033
Cp 1 2 1.3193080638p
Rs 1 N3 0.00175
L1 N3 2 0.359735989064967u
.ends 8090_7843340033_0.33u
*******
.subckt 8090_7843340047_0.47u 1 2
Rp 1 2 533.415866770897
Cp 1 2 1.63883382486207p
Rs 1 N3 0.0023
L1 N3 2 0.52600044931562u
.ends 8090_7843340047_0.47u
*******
.subckt 8090_7843340068_0.68u 1 2
Rp 1 2 794.207514914833
Cp 1 2 1.60330603013333p
Rs 1 N3 0.00345
L1 N3 2 0.762893520281367u
.ends 8090_7843340068_0.68u
*******
.subckt 8090_7843340100_1u 1 2
Rp 1 2 1108.86113971833
Cp 1 2 1.6218201383p
Rs 1 N3 0.0049
L1 N3 2 1.062938399509u
.ends 8090_7843340100_1u
*******
.subckt 8090_7843340220_2.2u 1 2
Rp 1 2 2386.57561480767
Cp 1 2 1.853128668p
Rs 1 N3 0.01
L1 N3 2 2.07326362145967u
.ends 8090_7843340220_2.2u
*******
.subckt 8090_7843340330_3.3u 1 2
Rp 1 2 3576.32753108931
Cp 1 2 1.63844099713793p
Rs 1 N3 0.01535
L1 N3 2 3.07877221167207u
.ends 8090_7843340330_3.3u
*******
.subckt 8090_7843340470_4.7u 1 2
Rp 1 2 5737.69457089933
Cp 1 2 1.83841440703333p
Rs 1 N3 0.0241
L1 N3 2 4.793095177484u
.ends 8090_7843340470_4.7u
*******
